US08217064B2
To a stirred solution of NaH (0.3 g, 12.5 mmol) in DMF (10 mL) was added ethyl 2-(3-bromo-5-chloro-4-(cyclopropylmethoxy)phenyl)acetate (2.0 g, 5.70 mmol) at 0° C. The reaction mixture was stirred at 0° C. over a period of 30 min. To the reaction mixture was added 2-bromo ethyl methyl ether (0.87 g, 6.25 mmol) and stirred at 0° C. for 30 min. After completion of starting material (by TLC), the reaction mixture was diluted with water (20 mL), acidified with 1N HCl (pH=5) and extracted with EtOAc (3×50 mL). Combined organic layers were washed with water (3×25 mL), brine and dried over anhydrous Na2SO4. After filtration and concentration under reduced pressure, the crude material was purified by column chromatography to afford ethyl 2-(3-bromo-5-chloro-4-(cyclopropylmethoxy)-phenyl)-4-methoxybutanoate (560 mg) as an off white solid.

reactant | NaH | 12.5 mmol, 0.3 g | [H-].[Na+]
reactant | ethyl 2-(3-bromo-5-chloro-4-(cyclopropylmethoxy)phenyl)acetate | 5.70 mmol, 2.0 g | BrC=1C=C(C=C(C1OCC1CC1)Cl)CC(=O)OCC | C14H16BrClO3
reactant | HCl | 1N, pH=5 | Cl | ClH
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | water | 20 mL | O | H2O
product | ethyl 2-(3-bromo-5-chloro-4-(cyclopropylmethoxy)-phenyl)-4-methoxybutanoate | 560 mg | BrC=1C=C(C=C(C1OCC1CC1)Cl)C(C(=O)OCC)CCOC | C17H22BrClO4
